US08957070B2
N-[2-(4,5-Dihydro-1,3-oxazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
To a solution of N-(2-bromoethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (0.35 g) in tetrahydrofuran (6 mL) was slowly added sodium hydride (60% in oil, 0.04 g) at 0° C., and the mixture was stirred at room temperature overnight. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.20 g, yield 71%) was obtained as colorless crystals from a fraction eluted with ethyl acetate. The crystals were recrystallized from ethyl acetate-hexane. melting point>260° C. (decomposition).

reactant | N-(2-bromoethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.35 g | BrCCNC(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H14BrN3O3S2
reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-[2-(4,5-Dihydro-1,3-oxazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.20 g, yield 71% | O1C(=NCC1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H13N3O3S2
